US08455477B2
5-(benzyloxy)-3-iodo-7-phenylimidazo[1,2-a]pyridine (32.0 mg, 0.091 mmol), tetrakis(triphenylphosphine)palladium(0) (10.6 mg, 9.14 μmol) and copper(I)iodide (10.44 mg, 0.055 mmol) were suspended in DMF (1 mL). Triethylamine (0.025 mL, 0.183 mmol) and 3-ethynylpyridine (28.3 mg, 0.274 mmol) were added, and the mixture was sparged with argon for 5 minutes. The reaction was stirred at room temperature for 1 hour, diluted with acetonitrile, DMSO and water. The solution was directly purified by preparative HPLC Reverse phase (C-18), eluting with acetonitrile/water+0.05% TFA. The fractions containing product were combined and diluted in ethyl acetate, then washed with aqueous sodium bicarbonate and dried over sodium sulfate. The solution was filtered and concentrated under reduced pressure to afford impure material, which was additionally purified by column chromatography on silica gel (methanol/dichloromethane gradient) to afford -methoxy-7-phenyl-3-(pyridin-3-ylethynyl)imidazo[1,2-a]pyridine. 1H NMR (500 MHz, CDCl3) δ 8.75 (d, 1H), 8.53 (dd, 1H), 7.89 (s, 1H), 7.75-7.79 (m, 1H), 7.62-7.67 (m, 2H), 7.53 (s, 1H), 7.45-7.50 (m, 2H), 7.39-7.43 (m, 1H), 7.27-7.31 (m, 1H), 6.37 (s, 1H), 4.16 (s, 3H). LRMS (ESI) calculated for C21H16N3O [M+H]+, 326.1; found 326.0.

reactant | 5-(benzyloxy)-3-iodo-7-phenylimidazo[1,2-a]pyridine | 0.091 mmol, 32.0 mg | C(C1=CC=CC=C1)OC1=CC(=CC=2N1C(=CN2)I)C2=CC=CC=C2 | C20H15IN2O
reactant | Triethylamine | 0.183 mmol, 0.025 mL | C(C)N(CC)CC | C6H15N
reactant | 3-ethynylpyridine | 0.274 mmol, 28.3 mg | C(#C)C=1C=NC=CC1 | C7H5N
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 9.14 μmol, 10.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I)iodide | 0.055 mmol, 10.44 mg | [Cu]I
product | methoxy-7-phenyl-3-(pyridin-3-ylethynyl)imidazo[1,2-a]pyridine | COC=1N=C2N(C=CC(=C2)C2=CC=CC=C2)C1C#CC=1C=NC=CC1 | C21H15N3O
